Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Syncope and fall
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Ms ___ is a ___ year old female, with past medical history
significant for left breast cancer (with +LN) s/p chemoXRT s/p
lumpectomy, who suffered a fall. Her story is as follows:

She was in her usual state of health at the ___ when
she had an acute onset of "light-headedness". From her
recollection, this is the sole symptom surrounding the event: no
nausea, visual changes, tinitis, vertigo, diaphoresis, tremors,
palpitations, etc. As a result, she fell with head strike. She
does endorse some antegrade amnesia and unable to recall exactly
what happened immediately following the event. GCS was 15 on
scene and currently. She states that she is sore diffusely,
without any localized area of pain. No weakness, numbness or
tinling. Imaging was performed at ___ where she
presented which showed left sided ___ rib fractures
(nondisplaced), T3 compression fracture; head and spine imaging
were atraumatic. EKG shows LVH and cardiac enzyme was negative.
She was transferred to ___ for trauma evaluation as well as
neurosurgery evaluation. 
 
Past Medical History:
Left breast cancer with mets to LN s/p chemoXRT
Hypertension 
Hyperlipidemia
 
Social History:
___
Family History:
No family history of aneurisms.
 
Physical Exam:
Admission Physical Exam:
VITAL SIGNS: 98.0 130/40 60 18 95%RA
GENERAL: AAOx3 NAD
HEENT: Head lac and ecchymosis, EOMI, PERRLA, No scleral 
icterus,
mucosa moist, no LAD
CARDIOVASCULAR: R/R/R, S1/S2, NO M/R/G
CAROTIDS: 2+, No bruits or JVD
PULMONARY: CTA ___, No crackles or rhonchi
GASTROINTESTINAL: S/NT/ND. No guarding, rebound, or peritoneal
signs. +BSx4 
EXT/MS/SKIN: No C/C/E; Feet warm. Good perfusion. Back TTP
thoracic spine; No step offs. Hip stable. 
NEUROLOGICAL: Reflexes, strength, and sensation grossly intact
CNII-XII: WNL

DISCHARGE PHYSICAL EXAM:
Vitals - Orthostatics: 118/53 sitting, 115/51 laying, 124/66 
standing. 
General: well appearing, NAD
HEENT: MMM, EOMI, PERRL
Neck: no JVD, no LAD  
CV: rrr, no m/r/g  
Lungs: CTAB, breathing comfortably
Abdomen: soft, nontender, nondistended, no HSM appreciated  
GU: deferred  
Ext: warm and well perfused, pulses, no edema  
MSK: Slightly tender to palpation over the left lower ribs 
laterally 
Neuro: CN ___ intact, strength ___ in all extremities, 
sensation grossly intact, A&Ox3
 
Pertinent Results:
ADMISSION LABS:
___ 05:35PM BLOOD WBC-16.5* RBC-4.57 Hgb-13.5 Hct-41.3 
MCV-90 MCH-29.5 MCHC-32.7 RDW-13.0 RDWSD-42.6 Plt ___
___ 05:35PM BLOOD Neuts-89.3* Lymphs-6.5* Monos-3.0* 
Eos-0.1* Baso-0.2 Im ___ AbsNeut-14.76* AbsLymp-1.07* 
AbsMono-0.50 AbsEos-0.01* AbsBaso-0.04
___ 05:35PM BLOOD Plt Smr-NORMAL Plt ___
___ 05:07AM BLOOD ___ PTT-26.6 ___
___ 05:35PM BLOOD Glucose-121* UreaN-11 Creat-0.8 Na-137 
K-4.2 Cl-101 HCO3-19* AnGap-21*
___ 05:07AM BLOOD Calcium-8.8 Phos-2.7 Mg-1.8

MICRO:
___: UA with 70WBC, +NIT, Lg LEUK
___: Urine culture consistent with contamination

IMAGING:
___ IMAGING:
T-Spine:
1. Moderate T3 and mild T2 compression fractures. 
2. Chronic severe compression fracture of T5 with focal 
kyphosis. 

MRI C&T SPINE: 
1. Acute anterior and posterior vertebral body fracture of the 
T3 with 4 mm retropulsion of the posterior vertebral body, 
moderately narrowing the vertebral canal at the level. Possible 
posterior ligamentous complex disruption at T3-4. No subluxation 
or rotation. 
2. Moderate amount of prevertebral swelling spanning from T2-8 
with likely disruption of the anterior longitudinal ligament at 
T7-8. 
3. Mild acute compression fracture at T2. 
4. Severe chronic compression fracture at T5. 
5. Cholelithiasis without evidence of cholecystitis. 
6. Bilateral renal simple cysts. 

___ Imaging:
MRI Head w&w/o contrast:
1. 2.5 X 1.5 cm aneurysm possibly arising from the left 
posterior 
communicating artery origin of the left internal carotid artery 
with at the carotid canal. Angiogram or CTA with 3D 
reconstruction is recommended for further evaluation of the 
aneurysm. 

CTA Head/Neck:
1. 2.4 x 1.5 cm left internal carotid aneurysm arising at the 
bifercation of the posterior communicating artery. The neck of 
the artery measuring up to 5 mm. 
2. Air locule within the head likely from venous injection. 
3. Posterior head laceration s/p skin stapling. 
4. Patent circle of ___ and its major tributaries. 
Final read pending 3D reconstructions.

OSH studies:
Pan CT showing new T3 compression fx, 3 non
displaced L rib fx, old T5 fx, CT head also showing likely
lipoma and a 4 x 1.6 x 1.3 cm mass in L temporal lobe,
likely extra-axial in location.

TTE ___:
The left atrium is normal in size. Left ventricular wall 
thickness, cavity size and regional/global systolic function are 
normal (LVEF >55%). There is no ventricular septal defect. Right 
ventricular chamber size and free wall motion are normal. The 
ascending aorta is mildly dilated. The aortic valve leaflets (3) 
appear structurally normal with good leaflet excursion and no 
aortic stenosis or aortic regurgitation. The mitral valve 
leaflets are mildly thickened. Mild (1+) mitral regurgitation is 
seen. There is mild pulmonary artery systolic hypertension. 
There is no pericardial effusion.   

DISCHARGE LABS:
___ 06:10AM BLOOD WBC-11.1* RBC-3.92 Hgb-11.4 Hct-34.2 
MCV-87 MCH-29.1 MCHC-33.3 RDW-13.2 RDWSD-41.2 Plt ___
___ 06:10AM BLOOD Plt ___
___ 06:10AM BLOOD Glucose-121* UreaN-13 Creat-0.7 Na-136 
K-3.7 Cl-100 HCO3-23 AnGap-17
___ 06:10AM BLOOD Calcium-8.8 Phos-2.7 Mg-2.1
 
Brief Hospital Course:
The patient is an ___ year-old female with a history of breast 
cancer status-post lumpectomy, hypertension, and hyperlipidemia 
who presented to ___ for syncope and fall with 
multiple vertebral fractures. She was transferred to ___, 
where she was found to have a urinary tract infection as well as 
an internal carotid artery aneurism. Her UTI was treated with 
Ciprofloxacin. She was briefly placed in a soft collar for 
musculoskeletal injuries, and neurosurgery recommended 
outpatient follow-up for her aneurism. She was discharged in 
stable condition on an increased dose of amlodipine to manage 
hypertension in the setting of internal carotid aneurysm.

ACUTE ISSUES:
# Syncope:
The patient experienced syncope of unclear etiology. She had an 
EKG and troponin that were normal, no findings on telemetry, 
non-orthostatic vitals, a normal neurologic examination, and had 
no witnessed seizure activity during hospitalization. The 
patient had no further episodes of syncope during 
hospitalization. She also had an echocardiogram which was 
normal. Therefor syncope was likely in the setting of 
orthostasis vs vasovagal. 

# Left internal carotid aneurysm:
This aneurism was discovered on Head CT and followed up with 
CTA. The patient had no focal neurologic deficits. Neurosurgery 
was consulted and recommended outpatient follow-up. She should 
follow up with neurosurgery.  It was thought unlikely that this 
was a cause of her syncope.

# Fall resulting in fractures of T2, T3, T5, and left ribs ___:
The patient was seen and evaluated by acute care surgery as well 
as orthopedic spine service. She was briefly placed in a soft 
collar, which was subsequently removed. She should follow up in 
the orthopedic spine clinic.

# Urinary Tract Infection:
The patient was found to have leukocytosis and urinalysis 
suggestive of urinary tract infection in the absence of 
symptoms. She was started on Ciprofloxacin, which she should 
continue until ___.

# Hypokalemia:
RESOLVED. This was likely in the setting of decreased PO intake 
surrounding the patient's fall.

CHRONIC ISSUES:
# Hypertension:
The patient had pressures consistently above 140 systolic in the 
setting of internal carotid artery aneurism. She was discharged 
on an increased dose of amlodipine, now 10mg daily (from 5mg 
previously). She was continued on enalapril, atenolol, and 
aspirin.

# Insomnia: Continued home zolpidem.

TRANSITIONAL ISSUES:
# Syncope: Please follow up with orthostatic vitals monitoring 
as outpatient. 
# ICA Aneurysm: Patient to follow up with neurosurgery as 
outpatient next week to determine plan for intervention. 
# Orthopedic Spine Clinic: Patient to follow up with orthopedic 
spine clinic for newly diagnosed vertebral and rib fractures. 
Patient to also continue physical therapy as outpatient.
# UTI: Patient to complete therapy with ciprofloxacin until 
___. 
# Hypokalemia: Please repeat CBC, and electrolytes upon 
follow-up. 
# Hypertension: Amlodopine increased to 10 mg daily to have SBP 
< 140 given new diagnosis of internal carotid artery aneurism. 
Please continue to monitor cardiopulmonary assessment, and 
adjust regimen as needed. 

CODE: Full, with limited trial of life-sustaining treatment. 
Recommend continued discussion about code status with family.

EMERGENCY CONTACT HCP: ___ 
Relationship: DAUGHTER 
Phone: ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 5 mg PO DAILY 
2. Enalapril Maleate 40 mg PO DAILY 
3. Atenolol 50 mg PO DAILY 
4. Aspirin 81 mg PO DAILY 
5. Zolpidem Tartrate 10 mg PO QHS:PRN insomnia 
6. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1. amLODIPine 10 mg PO DAILY 
RX *amlodipine 10 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
2. Aspirin 81 mg PO DAILY 
3. Atenolol 50 mg PO DAILY 
4. Enalapril Maleate 40 mg PO DAILY 
5. Vitamin D 1000 UNIT PO DAILY 
6. Zolpidem Tartrate 10 mg PO QHS:PRN insomnia 
7. Ciprofloxacin HCl 250 mg PO Q12H 
RX *ciprofloxacin HCl 250 mg 1 tablet(s) by mouth twice daily 
Disp #*8 Tablet Refills:*0
8. Roller
Please dispense 1 rolling walker
Diagnosis: R53.1 Leg Weakness. Prognosis: Good 
Length of Need: 13 months

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnoses: Vertebral fracture of T2,3, and 5. Internal 
cardotid artery aneurism, Hypokalemia, Syncope, Urinary tract 
infection

Secondary Diagnoses: Hypertension 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,

You were admitted to ___ 
because you passed out and fell. We found that you broke some 
bones in your back as well as some ribs on your left side. We 
put you in a neck collar for several days and made sure you were 
not in too much pain. While you were here, we found out that you 
had a urinary tract infection and we started you on antibiotics. 
We also found on an image of your brain that you have an 
aneurism, and for this we arranged a follow-up appointment for 
you with neurosurgery.

When you leave, remember to take all of your medications as 
directed. Please follow up with your primary care doctor as well 
as with our neurosurgeons for your brain aneurism. 

Thank you for allowing us to care for you here,
Your ___ care team
 
Followup Instructions:
___